US06365597B1
The diene disilane prepared above is redissolved in THF (300 mL) and treated with tetrabutylammonium fluoride (1.0 M in THF; 35.0 mL, 35.0 mmole). The desilylation reaction occurs over 20 minutes with stirring at ambient temperature. The reaction mixture is then diluted with EtOAc (500 mL) and washed with brine (3×400 mL). The crude product solution is dried over MgSO4, filtered and evaporated to dryness. The crude product is purified by flash chromatography (1:1 EtOAc/CH2Cl2) to afford 17β-hydroxy-4-trimethylsilyl-7-ethyloxycarbonylmethylene-4-aza-androst-5-en-3-one as a mixture of the E and Z isomers (diolefin). The diolefin is then hydrogenated in a manner similar to that described in Example 7H to give 7β-ethoxycarbonylmethyl-17β-hydroxy-4-aza-5α-androstan-3-one. The compound has the following structure:

reactant | 17β-trimethylsilyloxy-4-trimethylsilyl-7-ethoxycarbonylmethylene-4-aza-androst-5-en-3-one | C[Si](O[C@@H]1[C@]2(C)[C@@H](CC1)[C@@H]1C(C=C3N(C(CC[C@]3(C)[C@H]1CC2)=O)[Si](C)(C)C)=CC(=O)OCC)(C)C | C28H47NO4Si2
reactant | tetrabutylammonium fluoride | 35.0 mmole, 1.0 M, 35.0 mL | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | THF | 300 mL | C1CCOC1 | C4H8O
solvent | EtOAc | 500 mL | CCOC(=O)C | C4H8O2
product | 17β-hydroxy-4-trimethylsilyl-7-ethyloxycarbonylmethylene-4-aza-androst-5-en-3-one | O[C@@H]1[C@]2(C)[C@@H](CC1)[C@@H]1C(C=C3N(C(CC[C@]3(C)[C@H]1CC2)=O)[Si](C)(C)C)=CC(=O)OCC | C25H39NO4Si
